US07351719B2
139a) ethyl (2-bromo4-trifluoromethyl-phenoxy)-acetate
A solution of 2.650 g (11.000 mmol) 2-bromo-4-trifluoromethyl-phenol and 1.47 mL 13.20 mmol) ethyl bromo-acetate in 20 mL Hünig base was stirred for 5 h at 120° C. The reaction mixture was diluted with EtOAc and the org. phase was washed with water, saturated aqueous sodium bicarbonate and saturated aqueous NaCl, dried over magnesium sulphate and evaporated down i. vac. Column chromatography (silica gel, gradient dichloromethane/MeOH 100:0→19:1) yielded the product.

reactant | 2-bromo-4-trifluoromethyl-phenol | 11.000 mmol, 2.650 g | BrC1=C(C=CC(=C1)C(F)(F)F)O | C7H4BrF3O
reactant | ethyl bromo-acetate | BrCC(=O)OCC | C4H7BrO2
solvent | Hünig base | 20 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl (2-bromo4-trifluoromethyl-phenoxy)-acetate | BrC1=C(OCC(=O)OCC)C=CC(=C1)C(F)(F)F | C11H10BrF3O3
